US03953476
By replacing the crotonamide and the unsymmetrical-dimethylhydrazine employed in Example 38 by equimolar quantities of N-tert-butyl-3-(3-furfurylamino-4-chloro-5-methylsulfinylbenzoyloxy)crotonamide and unsymmetrical-diethylhydrazine respectively and then following substantially the same procedure described in Example 38 there is obtained 3-furfurylamino-4-chloro-5-methylsulfinylbenzoic acid 2,2-diethylhydrazide.

reactant | crotonamide | C(\C=C\C)(=O)N | C4H7NO
reactant | unsymmetrical-dimethylhydrazine | CN(C)N | C2H8N2
reactant | N-tert-butyl-3-(3-furfurylamino-4-chloro-5-methylsulfinylbenzoyloxy)crotonamide | C(C)(C)(C)NC(\C=C(\C)/OC(C1=CC(=C(C(=C1)S(=O)C)Cl)NCC1=CC=CO1)=O)=O | C21H25ClN2O5S
reactant | diethylhydrazine | C(C)NNCC | C4H12N2
product | 3-furfurylamino-4-chloro-5-methylsulfinylbenzoic acid 2,2-diethylhydrazide | C(C)N(NC(C1=CC(=C(C(=C1)S(=O)C)Cl)NCC1=CC=CO1)=O)CC | C17H22ClN3O3S
